US09428510B2
6 g (1.6 eq) of silver sulfate and 4.58 g (1.5 eq) of iodine are added successively to a solution of 2 g (12 mmol) of 6-hydroxy-2-(methylthio)nicotinonitrile in 200 ml of ethanol. The reaction medium is stirred at room temperature for 2 hours. The solid is filtered and the residue rinsed thoroughly with methanol. The filtrate is evaporated and then taken up in ethyl acetate. The organic phase is washed with water three times, dried on magnesium sulfate and evaporated to yield 3.18 g (90%) of 6-hydroxy-5-iodo-2-(methylthio)nicotinonitrile in the form of a yellow powder.

reactant | iodine | 4.58 g, 1.5 eq | II | I2
reactant | 6-hydroxy-2-(methylthio)nicotinonitrile | 12 mmol, 2 g | OC1=NC(=C(C#N)C=C1)SC | C7H6N2OS
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | silver sulfate | 6 g, 1.6 eq | S(=O)(=O)([O-])[O-].[Ag+2]
product | 6-hydroxy-5-iodo-2-(methylthio)nicotinonitrile | 3.18 g, 90% | OC1=NC(=C(C#N)C=C1I)SC | C7H5IN2OS
